US04496590
To a solution of 2.41 g of 2-(4-benzyloxyphenylamino)-5-methoxybenzenemethanol in 200 ml of ethanol was added 60 mg of 10% palladium-on-carbon catalyst, and the mixture was hydrogenated on a Parr apparatus at room temperature and an initial pressure of 34 psi for 73 minutes. The reaction mixture was filtered and concentrated in vacuo to a volume of about 10 ml. Toluene (40 ml) was added and about half of the volume evaporated. The solution was cooled and crystallization induced. The solid product was collected and dried to give 1.3 g of 2-(4-hydroxyphenylamino)-5-methoxybenzenemethanol, pale lavender powder, m.p. 96.5°-97° C.

reactant | 2-(4-benzyloxyphenylamino)-5-methoxybenzenemethanol | 2.41 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=C(C=C1)OC)CO | C21H21NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 60 mg | [Pd] | Pd
product | 2-(4-hydroxyphenylamino)-5-methoxybenzenemethanol | 1.3 g | OC1=CC=C(C=C1)NC1=C(C=C(C=C1)OC)CO | C14H15NO3
